US08084484B2
d) 2-(2,3-Dihydrobenzo[b][1,4]dioxin-7-yl)propanoic acid
To the flask was added THF/H2O (1:1, 4 mL) followed by Ethyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-7-yl)propanoate (133 mg, 0.563 mmol) and NaOH (30 mg, 0.750 mmol) at room temperature. The reaction mixture was stirred for 16 hrs at room temperature. The mixture was diluted with H2O (20 mL) and acidified with acetic acid (4 mL, pH=4) then extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo.

reactant | THF H2O | 4 mL | C1CCOC1.O
reactant | Ethyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-7-yl)propanoate | 0.563 mmol, 133 mg | O1C2=C(OCC1)C=CC(=C2)C(C(=O)OCC)C | C13H16O4
reactant | NaOH | 0.750 mmol, 30 mg | [OH-].[Na+]
reactant | acetic acid | 4 mL, pH=4 | C(C)(=O)O | C2H4O2
solvent | H2O | 20 mL | O | H2O
product | 2-(2,3-Dihydrobenzo[b][1,4]dioxin-7-yl)propanoic acid | O1C2=C(OCC1)C=CC(=C2)C(C(=O)O)C | C11H12O4
